US20010041705A1
A solution of 2-(4-methylpiperazin-1-yl)-aniline (23.77 grams, 0.124 mol) in 80 mL of 48% hydrobromic acid was cooled to 20° C. and treated with a solution of sodium nitrite (8 6 grams, 0.124 mol) in 35 mL of water while maintaining a temperature of 20-25° C. To this was added a solution of copper (II) bromide (3.5 grams, 0 024 mol) in 12 mL of 48% HBr. The mixture was heated to 85° C. for approximately 30 minutes, poured over crushed ice in a large beaker and neutralized with dilute aqueous sodium hydroxide. The crude product was extracted into diethyl ether and concentrated in vacuo to a black oil which was chromatographed on silica gel using triethylamine.methanol.methylene chloride (0.5:10:90) as the eluent. The product, 1-bromo-2-(4-methylpiperazin-1-yl)benzene, was obtained as a brown oil 20 grams Mass spectrum: 254 (M+), 256 1H-NMR (CDCl3, 300 MHz) δ 7.55 (1H, d), 7 30 (1H, t), 7 05 (1H, d), 6.9 (1H, t), 3 05 (4H, br s), 2.55 (4H, t), 2.35 (3H, s).

reactant | 2-(4-methylpiperazin-1-yl)-aniline | 0.124 mol, 23.77 grams | CN1CCN(CC1)C1=C(N)C=CC=C1 | C11H17N3
reactant | sodium nitrite | 0.124 mol, 6 grams | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrobromic acid | 80 mL | Br | BrH
reactant | HBr | 12 mL | Br | BrH
solvent | water | 35 mL | O | H2O
catalyst | copper (II) bromide | 3.5 grams | [Cu](Br)Br
product | 1-bromo-2-(4-methylpiperazin-1-yl)benzene | BrC1=C(C=CC=C1)N1CCN(CC1)C | C11H15BrN2
